Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Low back pain and tightness, right foot drop
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old male
who presented to the ED on ___ as a transfer from ___ with imaging concerning for a T12-L1 disc herniation 
with
associated spinal canal stenosis. Neurosurgery was consulted for
evaluation and management recommendations. On evaluation in the
ED, the patient states that he has been suffering from low back
pain and tightness for several months. He notes that on
___ however, these symptoms became worse after doing some
heavy lifting at work, which he does frequently as a part of his
job. He also notes that he developed a right foot drop around
this same time. He states that although he has also had issues
with his right foot for months, specifically related to his 
right
big toe, the foot drop is new over the past ___ hours. He
denies paresthesias, saddle anesthesia, incontinence of urine,
and incontinence of stool.
 
Past Medical History:
- history of myocardial infarction status post cardiac stent
placement in ___
- hypercholesterolemia
- status post right elbow surgery for bone spurs approximately ___
years ago
 
Social History:
___
Family History:
NC
 
Physical Exam:
ON ADMISSION:
************

Vital Signs: T 98.6F, HR 84, BP 142/75, RR 16, O2Sat 100% on 
room
air

General: Well appearing adult male. Comfortable appearing. No
acute distress.
Head, Eyes, Ears, Nose, Throat: Normocephalic. Atruamatic.
Extremities: Warm and well perfused.

Neurologic:
Mental Status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and time.

        Trapezius   Deltoid   Biceps   Triceps   Grip
Right   5           5         5        5         5
Left    5           5         5        5         5

        Wrist Flexion   Wrist Extension
Right   5               5
Left    5               5

        IP   Quadriceps   Hamstring   AT   ___   Gastrocnemius
Right   5    5            5           1    2     5
Left    5    5            5           5    5     5

Sensation: Intact to light touch. 

No ankle clonus noted on the right. 3 beats of ankle clonus 
noted
on the left.

Post void residual 359mL. Repeat post void residual 0mL.

Perianal sensation intact. Rectal tone intact.

Imaging:

MRI of the Lumbar Spine With and Without Contrast (From ___ on ___:

Impression:
1. At T12-L1, there is a large disc protrusion, causing severe
spinal canal narrowing with subsequent spinal cord compression
and T2 and STIR hyperintensity, likely representing spinal cord
edema versus myelomalacia. 
2. Multilevel degenerative changes as above.

ON DISCHARGE:
**************

General:
___ 0401 Temp: 98.2 PO BP: 131/85 HR: 87 RR: 17 O2 sat: 98% 
O2 delivery: Ra 

Bowel Regimen: [x]Yes [ ]No    Last BM: PTA

Exam:

Opens eyes: [x]Spontaneous [ ]To voice [ ]To noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Motor:
TrapDeltoidBicepTricepGrip
IPQuadHamATEHLGast
Right5       5       5       0       1       5

[+]Sensation intact to light touch

 
Pertinent Results:
See OMR for pertinent lab results and imaging.
 
Brief Hospital Course:
___ male with history of chronic back pain presents with 
acute worsening of his back pain as well as a new right foot 
drop of two days duration. He was transferred to ___ 
from ___ on ___ where a MRI L-Spine showed T12-L1 
disc herniation. He was admitted to the floor. As his clinical 
exam did not completely correlate with his imaging, a EMG was 
ordered that was pertinent for a severe L4-L5 nerve root injury. 
Neurology was consulted to examine the patient and recommended a 
lumbrosacral MRI, which did not show any obvious lesions. On 
___, his MRI L-Spine was repeated with attention to his right 
lumbosacral plexus to again evaluate for potential causes of 
L4-L5 nerve root compression. The MRI's did not show any clear 
evidence of L4-5 nerve compression. A brain MRI with and without 
contrast was ordered ___ given the patient's continued isolated 
motor symptoms. The MRI brain did not show any masses or lesions 
that could explain the patient's deficits.

Plan for discharge home on ___. Patient currently on 
wroker's comp and may call into the clinic this week to discuss 
filling out paperwork for his stay. He plans to follow-up with 
Dr. ___ in two weeks and with Dr. ___ ___ neurology in 
two weeks.  

 
Medications on Admission:
Aspirin PRN pain, Ibuprofen PRN pain, Percocet PRN pain, Tylenol 
PRN pain
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Nicotine Patch 14 mg/day TD DAILY 
RX *nicotine [Nicoderm CQ] 14 mg/24 hour one patch once a day 
Disp #*28 Patch Refills:*2 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth four hours Disp 
#*15 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN Constipation - First Line  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
T12-L1 disc herniation 
Right drop foot

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You admitted to ___ with the acute right-sided foot drop.  
Work-up with imaging, which included spine and sacral plexus 
MRIs, as well as an MRI of your brain did not reveal any focal 
lesion that would be suspected to be causing her symptoms.  You 
were found to have a T12-L1 disc herniation, however it is 
unclear whether or not this is acute and he does not necessarily 
correspond with the symptoms you are having.

Activity: As tolerated

Please wear the AFO brace while ambulating.  This will help keep 
your foot in dorsiflexion, and help prevent any Achilles 
shortening.
 
Followup Instructions:
___